US05262540
[3-[2-[4,5-Di(2-thienyl)-2-oxazolyl]ethyl]phenoxyacetic Acid
Hydrolysis of methyl [3-[2-[4,5-di(2-thienyl)-2-oxazolyl]ethyl]phenoxy]acetate with aqueous sodium hydroxide provided the hydrated title compound, m.p. 105.5°-107° C.

reactant | methyl [3-[2-[4,5-di(2-thienyl)-2-oxazolyl]ethyl]phenoxy]acetate | S1C(=CC=C1)C=1N=C(OC1C=1SC=CC1)CCC=1C=C(OCC(=O)OC)C=CC1 | C22H19NO4S2
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-[2-[4,5-Di(2-thienyl)-2-oxazolyl]ethyl]phenoxyacetic Acid | S1C(=CC=C1)C=1N=C(OC1C=1SC=CC1)CCC=1C=C(OCC(=O)O)C=CC1 | C21H17NO4S2
